US08207134B2
2) Synthesis of (3′R,4′S,5S,5′S,6′R)-3-[(4-ethylphenyl)methyl]-6′-hydroxymethyl-3′,4′,5′,6′-tetrahydro-spiro[furo[3,4,f]benzoisoxazole-5(7H),2′-[2H]pyran]-3′,4′,5′-triol
(3′R,4′S,5S,5′S,6′R)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-3-[(4-ethylphenyl)methyl]-3′,4′,5′,6′-tetrahydro-spiro[furo[3,4,f]benzoisoxazole-5(7H),2′-[2H]pyran] (86.9 mg, 0.110 mmol) was dissolved in dichloromethane (3.7 mL). Pentamethylbenzene (0.245 g, 1.65 mmol) was added thereto, and then this solution was cooled to −78° C. A solution of boron trichloride in dichloromethane (1.0 M, 0.55 mL) was added dropwise thereto. The resulting mixture was stirred for 2 hours, and then methanol (2.5 mL) was added thereto. The temperature of the mixture was raised to room temperature. The reaction mixture was concentrated under reduced pressure. The resulting residue was purified by silica gel flash column chromatography (developing solution=methanol:dichloromethane (1:12)), to thereby obtain the titled compound (23.0 mg, 48%).

reactant | (3′R,4′S,5S,5′S,6′R)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-3-[(4-ethylphenyl)methyl]-3′,4′,5′,6′-tetrahydro-spiro[furo[3,4,f]benzoisoxazole-5(7H),2′-[2H]pyran] | 0.110 mmol, 86.9 mg | C(C1=CC=CC=C1)O[C@H]1[C@]2(O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)OCC1=CC3=C(C(=NO3)CC3=CC=C(C=C3)CC)C=C12 | C51H49NO7
reactant | Pentamethylbenzene | 1.65 mmol, 0.245 g | CC=1C(=C(C(=C(C1)C)C)C)C | C11H16
reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
reactant | methanol | 2.5 mL | CO | CH4O
solvent | dichloromethane | 3.7 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0 M, 0.55 mL | ClCCl | CH2Cl2
product | (3′R,4′S,5S,5′S,6′R)-3-[(4-ethylphenyl)methyl]-6′-hydroxymethyl-3′,4′,5′,6′-tetrahydro-spiro[furo[3,4,f]benzoisoxazole-5(7H),2′-[2H]pyran]-3′,4′,5′-triol | 23.0 mg, 48% | C(C)C1=CC=C(C=C1)CC1=NOC2=C1C=C1C(=C2)CO[C@]12O[C@@H]([C@H]([C@@H]([C@H]2O)O)O)CO | C23H25NO7
